US04281188
200 mg (0.4 mM) of 1-benzyl-1-(2-tert.butoxyethyl)-3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea are heated on a steam-bath for 10 minutes in 3 ml of a 33% solution of hydrogen bromide in glacial acetic acid and then left to stand at room temperature for 3 days. The mixture is neutralised with sodium bicarbonate and extracted several times with methylene chloride. The methylene chloride extracts are combined, dried over sodium sulphate, filtered and concentrated. The residue is purified in a pressure column (0.2-0.4 atmospheres of nitrogen) on 15 g of silica gel (particle size 0.04-0.06 mm) using ethyl acetate as the eluting agent and crystallised from ethyl acetate/ether, there being obtained 2-[3-[5-(o-fluorophenyl)-2,3-dihydro -1-methyl-2-oxo-1H-1,4-benzodiazepin-7yl]ureido]ethyl acetate which melts at 196°-198° C.

reactant | 1-benzyl-1-(2-tert.butoxyethyl)-3-[5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]urea | 0.4 mM, 200 mg | C(C1=CC=CC=C1)N(C(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1)CCOC(C)(C)C | C30H33FN4O3
reactant | hydrogen bromide | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[3-[5-(o-fluorophenyl)-2,3-dihydro -1-methyl-2-oxo-1H-1,4-benzodiazepin-7yl]ureido]ethyl acetate | C(C)(=O)OCCNC(=O)NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1 | C21H21FN4O4
